US07989657B2
2-(4-m-Tolyloxy-benzoylamino)-benzoic acid
In analogy to example 2,2-(4-m-Tolyloxy-benzoylamino)-benzoic acid was prepared from 2-(4-iodo-benzoylamino)-benzoic acid methyl ester [75541-84-3] and m-cresol. MS (m/e): 346.3 (M−H−, 100%).

reactant | 2-(4-iodo-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)I)=O)=O | C15H12INO3
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | 2-(4-m-Tolyloxy-benzoylamino)-benzoic acid | C1(=CC(=CC=C1)OC1=CC=C(C(=O)NC2=C(C(=O)O)C=CC=C2)C=C1)C | C21H17NO4
